US07683060B2
Step 7. N-(Cyclopropylmethyl)-4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzamide
To a solution of methyl 4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzoate (15 mg, 0.036 mmol) in toluene (0.2 mL) was added 2.0 M of trimethylaluminum in toluene (27 μL) at RT followed by addition of cyclopropylmethylamine (5.0 mg, 0.071 mmol). The mixture was stirred at 70° C. overnight. After cooling the mixture was diluted with methanol, and filtered. The filtrate was purified by RP-HPLC (pH=10) to afford the desired product. Analytical LCMS: (M+H)+=462.4.

reactant | methyl 4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzoate | 0.036 mmol, 15 mg | N1=CC=CC2=CC(=CC=C12)C1(CC1)C1=NN=C2N1N=C(C=N2)C2=CC=C(C(=O)OC)C=C2 | C24H18N6O2
reactant | trimethylaluminum | 2.0 M | C[Al](C)C
reactant | cyclopropylmethylamine | 0.071 mmol, 5.0 mg | C1(CC1)CN | C4H9N
solvent | toluene | 0.2 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 27 μL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | N-(Cyclopropylmethyl)-4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzamide | C1(CC1)CNC(C1=CC=C(C=C1)C=1C=NC=2N(N1)C(=NN2)C2(CC2)C=2C=C1C=CC=NC1=CC2)=O | C27H23N7O
